US04510136
Preparation of (1,1'-Biphenyl-4-yl)dimethyl[1-(1H-1,2,4-triazol-1-yl)ethyl]silane
A mixture of 2.50 g (7.46 mmol) of 82% pure (1,1'-biphenyl-4-yl)dimethyl-1-chloroethylsilane and 1.60 g (15 mmol) of 1H-1,2,4-triazole potassium salt in 15 ml of dimethylformamide was stirred at 50° for 64 hours, cooled, diluted with water, and extracted with ether. The ether extracts were washed with water and brine, dried over magnesium sulfate, and evaporated to leave a viscous oil. Chromatography over silica gel eluting with 2% methanol in dichloromethane gave 0.30 g (13%) of the title compound as a pale yellow oil: nmr (CDCl3) 0.38 and 0.42 (total 6H, two equal s), 1.6 (3H, d, J=7 Hz), 4.2 (1H, q, J=7 Hz), 7.3-7.8 (9H, m), 7.9 (1H, s) and 8.0 (1H, s).

reactant | (1,1'-biphenyl-4-yl)dimethyl-1-chloroethylsilane | 7.46 mmol, 2.50 g | C1(=CC=C(C=C1)[Si](C(C)Cl)(C)C)C1=CC=CC=C1 | C16H19ClSi
reactant | 1H-1,2,4-triazole potassium salt | 15 mmol, 1.60 g | [K].N1N=CN=C1
reactant | methanol | CO | CH4O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1,1'-Biphenyl-4-yl)dimethyl[1-(1H-1,2,4-triazol-1-yl)ethyl]silane | 0.30 g, 13% | C1(=CC=C(C=C1)[Si](C(C)N1N=CN=C1)(C)C)C1=CC=CC=C1 | C18H21N3Si
